* BDW93A NPN EPITAXIAL SILICON TRANSISTOR ELECTRICAL PARAMETER

* Power Darlington Transistor 
* =======================================================================
* Hammer Drivers, Audio Amplifiers Applications
* Complement to BDW94, BDW94A, BDW94B and BDW94C Respectively
* =======================================================================
* Vcbo & Vceo: BDW93 45V / BDW93A 60V / BDW93B 80V / BDW93C 100V
* Ic(DC) 12A / Ic(Pulse) 15A / Ib 0.2A
* =======================================================================
* Connections:    Collector 1   Base 2  Emitter 3
* =======================================================================
.SUBCKT BDW93A     1  2  3  
Q1 1 2 4 Q1model
Q2 1 4 3 Q2model 5.2266
D1 3 1   Dmodel
R1 2 4   10.000E3
R2 4 3   600
.MODEL Dmodel D
+ IS=1.67E-12                N=1.01                  RS=1.854
+ CJO=2.8833E-10             M=0.3227                VJ=0.4449
+ BV=65.0                    IBV=0.1
.MODEL Q1model NPN
+  IS=1.4507E-14             BF=7.88E3               NF=0.85
+  VAF=138.92                IKF=0.8207              ISE=6.298E-13
+  NE=1.2                    BR=21.99                NR=0.8
+  VAR=200                   IKR=0.5                 ISC=1.367E-13
+  NC=2.8                    RB=6.193                NK=0.6     
+  RE=0.001                  RC=0.185                EG=1.110
+  CJE=1.055E-10             VJE=0.7775              MJE=0.4512        
+  CJC=1.601E-10             VJC=0.8966              MJC=0.3035
+  XCJC=0.4455               FC=0.5
.MODEL Q2model NPN 
+  IS=1.4507E-14             BF=7.88E3               NF=0.85
+  VAF=138.92                IKF=0.8207              ISE=6.298E-13
+  NE=1.2                    BR=21.99                NR=0.8
+  VAR=200                   IKR=0.5                 ISC=1.367E-13
+  NC=2.8                    RB=6.193                NK=0.6    
+  RE=0.001                  RC=0.185                EG=1.110
+  CJE=1.055E-10             VJE=0.7775              MJE=0.4512        
+  CJC=1.601E-10             VJC=0.8966              MJC=0.3035
+  XCJC=0.4455               FC=0.5
.ENDS BDW93A
* ======================================================================
* FAIRCHILD PUCHON S.KOREA     CASE: TO-220      PID: BDW93A
* FEB-02-2001 CREATION