*SRC=BZT52C2V4T;DI_BZT52C2V4T;Diodes;Zener <=10V; 2.40V  0.15W   Diodes Inc. 
*SYM=HZEN
.SUBCKT DI_BZT52C2V4T  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 0
.MODEL DF D ( IS=85.8p RS=37.1 N=1.10
+ CJO=461p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=17.2f RS=84.5 N=3.00 )
.ENDS DI_BZT52C2V4T